US06265434B1
Step B: (2-Allyl-4,6-difluorophenyl)methyl ether
A solution of iodomethane (1.8 mL, 29.4 mmol), K2CO3 (2.4 grams, 17.6 mmol) and 2-Allyl-4,6-difluorophenol (1.0 grams, 5.9 mmol) in 20 mL acetone was refluxed overnight. The mixture was diluted with water and extracted with EtOAc. The organic layer was dried over sodium sulfate and concentrated. Flash chromatography (Hexane) afforded 0.67 g (63%) of the title compound. 1H NMR (400 MHz, CDCl3). S 3.36 (d, 21), 3.82 (s, 3H), 4.97-5.12 (m, 2H), 5.85-6.0 (m, 1H), 6.4-6.5 (m, 2H).

reactant | iodomethane | 29.4 mmol, 1.8 mL | IC | CH3I
reactant | K2CO3 | 17.6 mmol, 2.4 grams | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Allyl-4,6-difluorophenol | 5.9 mmol, 1.0 grams | C(C=C)C1=C(C(=CC(=C1)F)F)O | C9H8F2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | (2-Allyl-4,6-difluorophenyl)methyl ether | 0.67 g, 63% | C(C=C)C1=C(C(=CC(=C1)F)F)OC | C10H10F2O
